US07378410B2
To a solution of TFA/THF/H2O (3/3/2) (30 mL) at 0° C. is added tetradecanoic acid (3R,6S)-6-{(R)-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetylamino}-7-oxo-1-pyridin-3-ylmethyl-azepan-3-yl ester (0.3 g, 0.42 mmol). After 30 min the reaction is evaporated under high vacuum, toluene is added (20 mL) and evaporated under high vacuum to remove remaining TFA. The residue is dissolved in CH2Cl2 at 0° C. and neutralized by adding NH4OH dropwise. The solution is concentrated and chromatographed on silica (98% CH2Cl2/2% CH3OH) to give 0.2 g (70.7%) of tetradecanoic acid (3R,6S)-7-oxo-1-pyridin-3-ylmethyl-6-((2R,3R,4S,5R)-(E)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoylamino)-azepan-3-yl ester as a with solid. 1H NMR 300 MHz δ 8.62 (s, 2H), 8.17 (d, 1H), 7.67 (d, 1H), 7.33 (m, 1H), 5.83 (d, 1H), 5.42(dd, 1H), 4.69 (m, 1H), 4.54 (m, 1H), 4.33 (d, 1H), 4.32 (t, 1H), 3.83 (dd, 2H), 3.67 (d, 1H), 3.25 (s, 3H), 3.17 (m, 1H), 2.94 (d, 1H), 2.29 (t, 2H), 2.13 (m, 2H), 2.00 (m, 1H), 1.60 (m, 3H), 1.29 (m, 24H), 1.04 (s, 9H), 0.89 (t, 3H); MS (ESI) 690.3 (M+H)+.

reactant | tetradecanoic acid (3R,6S)-6-{(R)-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetylamino}-7-oxo-1-pyridin-3-ylmethyl-azepan-3-yl ester | 0.42 mmol, 0.3 g | CC(/C=C/[C@@H]1[C@H]([C@@H](OC(O1)(C)C)[C@H](C(=O)N[C@H]1CC[C@H](CN(C1=O)CC=1C=NC=CC1)OC(CCCCCCCCCCCCC)=O)OC)O)(C)C | C41H67N3O8
solvent | TFA THF H2O | 30 mL | C(=O)(C(F)(F)F)O.C1CCOC1.O
product | tetradecanoic acid (3R,6S)-7-oxo-1-pyridin-3-ylmethyl-6-((2R,3R,4S,5R)-(E)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoylamino)-azepan-3-yl ester | 0.2 g, 70.7% | O=C1[C@H](CC[C@H](CN1CC=1C=NC=CC1)OC(CCCCCCCCCCCCC)=O)NC([C@@H]([C@@H]([C@H]([C@@H](\C=C\C(C)(C)C)O)O)O)OC)=O | C38H63N3O8
